US04935509
Racemic cis-2-(1,3-Dithiolan-2-yl methyl)cyclohexanemethanol acetate.
At 0° C., 290 μL (3.5 mmol) of pyridine was added to 0.740 g (3.18 mmol) of rac-cis-2-(1,3-dithiolan-2-yl methyl)cyclohexanemethanol in 5 mL of dichloromethane, followed by dropwise addition of 235 μL (3.5 mmol) of acetyl chloride. After 15 min at 0° C. and 30 min at 20° C., the reaction mixture was partitioned between water and dichloromethane and the organic solution washed with 1.0N HCl and with 5% KHCO3 solutions, dried (MgSO4) and concentrated under vacuum to 865 mg (98%) of racemic cis-2-(1,3-dithiolan-2-yl methyl)cyclohexanemethanol acetate. TLC Rf 0.48 (SiO2, dichloromethane, I2 -brown).

reactant | pyridine | 3.5 mmol, 290 μL | N1=CC=CC=C1 | C5H5N
reactant | rac-cis-2-(1,3-dithiolan-2-yl methyl)cyclohexanemethanol | 3.18 mmol, 0.740 g | S1C(SCC1)C[C@@H]1[C@@H](CCCC1)CO | C11H20OS2
reactant | acetyl chloride | 3.5 mmol, 235 μL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Racemic cis-2-(1,3-Dithiolan-2-yl methyl)cyclohexanemethanol acetate | C(C)(=O)OC[C@H]1[C@H](CCCC1)CC1SCCS1 | C13H22O2S2
